US04348390
Sodium borohydride (16 g) was added to a stirred solution of 3α-isobutyroxy-2β,16β-dipiperidino-5α-androstan-17-one (51.6 g) in methylene dichloride (150 ml) and methanol (150 ml) and the reaction mixture was stirred for a further hour. Water was added, the product extracted with ether, and the extract washed well with water and dried. Concentration of the ether solution yielded 2β,16β-dipiperidino-5α-androstan-3α,17β-diol 3-isobutyrate (21 g) which was recrystallised from ether.

reactant | Sodium borohydride | 16 g | [BH4-].[Na+]
reactant | 3α-isobutyroxy-2β,16β-dipiperidino-5α-androstan-17-one | 51.6 g | C(C(C)C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)=O)N1CCCCC1 | C33H54N2O3
reactant | Water | O | H2O
solvent | methylene dichloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 150 ml | CO | CH4O
product | 2β,16β-dipiperidino-5α-androstan-3α,17β-diol 3-isobutyrate | 21 g | C(C(C)C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)O)N1CCCCC1 | C33H56N2O3
